US04999378
(2) 4-[3-[N-(4-Chlorophenyl) -N-ethylamino]propoxy]benzoic acid
Methyl 4-[3-[N-(4-chlorophenyl)-N-ethylamino]propoxy]benzoate (1.37 g) was dissolved in methanol (20 ml), and a solution of sodium hydroxide (0.48 ml) in water (5 ml) was added thereto, the mixture was heated with stirring at 60° C. for 13 hours. The reaction mixture was cooled, and was added a neutralization amount of conc. hydrochloric acid thereto, then the mixture was concentrated under reduced pressure. The residue was suspended in water, and collected by filtration, and washed with water to give the desired product (1.20 g). mp. 146°-149° C.

reactant | Methyl 4-[3-[N-(4-chlorophenyl)-N-ethylamino]propoxy]benzoate | 1.37 g | ClC1=CC=C(C=C1)N(CC)CCCOC1=CC=C(C(=O)OC)C=C1 | C19H22ClNO3
reactant | sodium hydroxide | 0.48 ml | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 20 ml | CO | CH4O
solvent | water | 5 ml | O | H2O
product | 4-[3-[N-(4-Chlorophenyl) -N-ethylamino]propoxy]benzoic acid | 1.20 g | ClC1=CC=C(C=C1)N(CC)CCCOC1=CC=C(C(=O)O)C=C1 | C18H20ClNO3
